US04283556
Other aqueous processes of acylation have been taught to yield the single desired isomer compound I where R is --CH3 and --XR1 is --COCH3, but at lower yield. German 1,543,625, Example 1, teaches the acylation of freshly-distilled 2,4-diaminoanisole with acetic anhydride in water solution, without the addition of hydrochloric acid, to give 3-amino-4-methoxyacetanilide in 75% yield before recrystallization. Publication, Board of Federal Intelligence Agency, P.B. 74 051, p. 33 teaches a similar conversion of 2,4-diaminoanisole to 2-amino-4-acetamidoanisole, in aqueous solution, with acetic anhydride, in the presence of magnesia at 65% yield.

reactant | 2,4-diaminoanisole | NC1=C(C=CC(=C1)N)OC | C7H10N2O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3-amino-4-methoxyacetanilide | 75% yield | CC(=O)NC1=CC(=C(C=C1)OC)N | C9H12N2O2
